US08580762B2
N-(2,4-dimethoxybenzyl)-7-((3aS,4R,6R,6aR)-2,2-dimethyl-6-((methyl(3-(2-(5-(trifluoromethyl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)amino)methyl)tetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine
N-(2-amino-4-(trifluoromethyl)phenyl)-3-(3-((((3aR,4R,6R,6aS)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutyl)propanamide (0.38 g, 0.50 mmol) and Acetic acid (5 ml) were stirred overnight at 65° C. The volatiles were removed in vacuo and remaining water was removed by azeotropic distillation with ethanol followed by 1 hour on high vacuum. The resulting residue was partitioned between NaHCO3 (saturated) and DCM. The aqueous layer was extracted (3×) and combined organics were dried with MgSO4, filtered, concentrated and then purified by flash chromatography (DCM/7N NH3 in MeOH 93:7) to yield an off white foam.

reactant | N-(2-amino-4-(trifluoromethyl)phenyl)-3-(3-((((3aR,4R,6R,6aS)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutyl)propanamide | 0.50 mmol, 0.38 g | NC1=C(C=CC(=C1)C(F)(F)F)NC(CCC1CC(C1)N(C)C[C@H]1C[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C=CC1=C2N=CN=C1NCC1=C(C=C(C=C1)OC)OC)=O | C39H48F3N7O5
solvent | Acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | N-(2,4-dimethoxybenzyl)-7-((3aS,4R,6R,6aR)-2,2-dimethyl-6-((methyl(3-(2-(5-(trifluoromethyl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)amino)methyl)tetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | COC1=C(CNC=2C3=C(N=CN2)N(C=C3)[C@@H]3C[C@@H]([C@H]2OC(O[C@H]23)(C)C)CN(C2CC(C2)CCC2=NC3=C(N2)C=CC(=C3)C(F)(F)F)C)C=CC(=C1)OC | C39H46F3N7O4
